US20010000513A1
To a stirred suspension of anhydrous aluminum chloride (3.45 g, 0.026 mol) in dichloromethane (20 mL) at 5° C. was added dropwise a solution of 4-bromobiphenyl (2.3 g, 0.010 mol) in dichloromethane (11 mL) followed by the dropwise addition of 3-carbomethoxypropionyl chloride (1.35 mL, 0.011 mol) in dichloromethane (15 mL), and the mixture stirred. After 2 hours at 5° C., the mixture was allowed to warm to room temperature. After 1 day, the reaction was cooled to 5° C. and quenched by the dropwise addition of water (50 mL). The layers were separated, and the organic layer washed with water and brine, dried (MgSO4), and rotary evaporated. The residue was dissolved (CH2Cl2) and purified by column chromatography on silica gel, eluting with dichloromethane to give 2.68 g of 4-(4′-bromo-biphenyl-4-yl)-4-oxo-butyric acid, methyl ester as a white solid; mp 115.0-116.5° C.

reactant | aluminum chloride | 0.026 mol, 3.45 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 4-bromobiphenyl | 0.010 mol, 2.3 g | BrC1=CC=C(C=C1)C1=CC=CC=C1 | C12H9Br
reactant | 3-carbomethoxypropionyl chloride | 0.011 mol, 1.35 mL | C(=O)(OC)CCC(=O)Cl | C5H7ClO3
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 11 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 4-(4′-bromo-biphenyl-4-yl)-4-oxo-butyric acid, methyl ester | 2.68 g | BrC1=CC=C(C=C1)C1=CC=C(C=C1)C(CCC(=O)OC)=O | C17H15BrO3
